US04442126
(a) 2-Dipropylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene
20 g of 6-methoxytetrahydronaphthalen-2-one, 20 ml of dipropylamine and 200 mg of para-toluenesulphonic acid are introduced into 300 ml of benzene under a nitrogen atmosphere. The mixture, which has become black, is then heated under reflux for 12 hours, the water of condensation being removed by azeotropic distillation. The solution, which contains the compound (IV), is then concentrated to a volume of about 100 ml. For the hydrogenation, 150 ml of ethanol and 300 mg of PtO2 are added thereto and hydrogenation is carried out, under a pressure of about 0.3 MPa, until the absorption has stopped.

reactant | 6-methoxytetrahydronaphthalen-2-one | 20 g | COC=1CC2CCC(CC2=CC1)=O | C11H14O2
reactant | dipropylamine | 20 ml | C(CC)NCCC | C6H15N
reactant | para-toluenesulphonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-Dipropylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=CC=C(C=C2CC1)OC)CCC | C17H27NO
